US07098364B2
1.0 g of 2-(3-chloro-4-amino-5-trifluoromethyl-phenyl)-2-tert-butylaminoethanol was dissolved in 20 ml of anhydrous diethyl ether and the solution was acidified to pH=2 by adding dropwise a solution of hydrobromic acid in isopropanol with stirring. The precipitate was collected by filtration, washed with small amount of anhydrous diethyl ether, dried to give crude 2-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-tert-butylamino-ethanol hydrobromide. The crude product was dissolved in absolute ethanol at a ratio of 1:5 w/v. Filtered and anhydrous diethyl ether was added dropwise until small amount of crystals was precipitated. Lyophilized and filtered to give 2-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-tert-butylamino-ethanol hydrobromide. Yield 80–90%; melting point 208–210° C. (dec). 1H-NMR (DMSO-d6) δ: 1.24(9H, s), 3.79(2H, d), 4.46–4.51(1H, m), 7.72(1H, s), 7.89(1H, s).

reactant | 2-(3-chloro-4-amino-5-trifluoromethyl-phenyl)-2-tert-butylaminoethanol | 1.0 g | ClC=1C=C(C=C(C1N)C(F)(F)F)C(CO)NC(C)(C)C | C13H18ClF3N2O
reactant | hydrobromic acid | Br | BrH
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | ethanol | C(C)O | C2H6O
product | 2-(4-amino-3-chloro-5-trifluoromethyl-phenyl)-2-tert-butylamino-ethanol hydrobromide | Yield 80–90% | Br.NC1=C(C=C(C=C1C(F)(F)F)C(CO)NC(C)(C)C)Cl | InChI=1S/C13H18ClF3N2O.BrH/c1-12(2,3)19-10(6-20)7-4-8(13(15,16)17)11(18)9(14)5-7;/h4-5,10,19-20H,6,18H2,1-3H3;1H
